US04870076
2-[2-(p-Toluenesulphonylamino)-ethyl]-1-methylpyrrol
Prepared from 2-(2-aminoethyl)-1-methylpyrrol and p-toluenesulphonylchloride analogously to Example A.

reactant | 2-(2-aminoethyl)-1-methylpyrrol | NCCC=1N(C=CC1)C | C7H12N2
reactant | p-toluenesulphonylchloride | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
product | 2-[2-(p-Toluenesulphonylamino)-ethyl]-1-methylpyrrol | C1(=CC=C(C=C1)S(=O)(=O)NCCC=1N(C=CC1)C)C | C14H18N2O2S
